* Z:\home\fedemgp\Dropbox\circuitos\TL3\TP3 - simulacion\simulacion.asc
M1 N005 vin N009 N002 minmos1
M2 N007 N009 N006 N002 minmos2
R1 vin 0 1meg
R2 N009 0 1k
R3 N001 N010 4.7k
R4 vout 0 4.7k
C2 N009 0 1µ
C3 N010 0 0.1µ
C4 vout N001 1µ
V1 N010 0 10
V2 N008 0 SINE(0 1m 20k) AC 1m
R6 N004 0 1meg
C5 N004 0 200p
C1 vin N009 2.2p
C6 N001 vin 0.025p
C7 N009 N009 1.1p
C8 N001 N009 0.8p
R5 N006 N005 50
R7 N001 N007 100
R8 N003 0 1meg
C9 N003 0 200p
R9 vin N008 50
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.model minmos1 nmos {vto=-1, kp=0.015, lambda=0, w=1m, l=1m, gamma=0}
.model minmos2 nmos {vto=-1, kp=0.2, lambda=0, w=1m, l=1m, gamma=0}
.ac dec 1000 100 300meg
.backanno
.end
